US07566735B2
N-methyl-N-(phenylmethyl)-2-{4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}acetamide
The title compound was prepared from {4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}acetic acid and N-methylbenzylamine using a similar procedure to that described for Example 13, but purified by flash column chromatography eluting from 0-66% ethyl acetate in hexane.

reactant | {4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}acetic acid | FC(C1=NN(C=2CCCCC12)C1=CC=C(C=C1)CC(=O)O)(F)F | C16H15F3N2O2
reactant | N-methylbenzylamine | CNCC1=CC=CC=C1 | C8H11N
product | N-methyl-N-(phenylmethyl)-2-{4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}acetamide | CN(C(CC1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F)=O)CC1=CC=CC=C1 | C24H24F3N3O
